US08703941B2
Synthesis of trans-N1-(6,6-dimethyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-4-yl)-N4-methylcyclohexane-1,4-diamine (1-41)
To a solution of tert-butyl trans-4-(6,6-dimethyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-4-ylamino)cyclohexanylcarbamate (210 mg, 0.49 mmol) in 10 mL of THF was added LiAlH4 (88 mg, 2.44 mmol, 5.0 eq) carefully at 0° C. The resulting mixture was heated at reflux for 2 h and cooled down. The reaction was cooled to 0° C. and quenched with a mixture of THF/H2O. Extracted with EtOAc (3×20 mL) and the combined organics were dried over anhydrous Na2SO4 and filtered. The filtrate was concentrated and the residue was purified by column chromatography in silica gel (DCM/MeOH/NH4OH=100:8:1) to give the product as white solid (140 mg, 80%). 1H NMR (400 MHz, CDCl3) δ1.01 (s, 6H), 1.18-1.30 (m, 4H), 1.58 (t, J=6.4 Hz, 2H), 1.96 (br s, 1H), 1.98-2.01 (m, 2H), 2.17-2.19 (m, 2H), 2.38-2.40 (m, 1H), 2.41 (s, 3H), 2.56 (s, 2H), 2.73-2.76 (m, 2H), 4.07-4.10 (m, 1H), 5.01 (d, J=7.2 Hz, 1H), 8.29 (s, 1H). MS: m/z 345.1 (M+H).

reactant | tert-butyl trans-4-(6,6-dimethyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-4-ylamino)cyclohexanylcarbamate | 0.49 mmol, 210 mg | CC1(CCC2=C(C3=C(N=CN=C3N[C@@H]3CC[C@H](CC3)NC(OC(C)(C)C)=O)S2)C1)C | C23H34N4O2S
reactant | LiAlH4 | 2.44 mmol, 88 mg, 5.0 eq | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | trans-N1-(6,6-dimethyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-4-yl)-N4-methylcyclohexane-1,4-diamine | 140 mg, 80% | CC1(CCC2=C(C3=C(N=CN=C3N[C@@H]3CC[C@H](CC3)NC)S2)C1)C | C19H28N4S
